US04278681
A suspension of 4.29 g (30 mM) of 2-oxo-1-pyrrolidineacetic acid, 2.20 ml (30 mM) of thionyl chloride, 2.32 ml (30 mM) of dimethylformamide, and 75 ml of dichloromethane was stirred with ice bath cooling for 11/4 hrs. A mixture of 4.60 g (20 mM) of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid, 140 ml of dichloromethane, 8.4 ml (60 mM) of triethylamine, and 7.6 ml (60 mM) of chlorotrimethylsilane was stirred at room temperature for 1 hr. The silylated pyridone solution was cooled with an ice bath and the cold solution of the acid chloride was added. The reaction mixture was stirred for 4 hrs with cooling and at room temperature for 18 hrs. The reaction mixture was evaporated to a wet solid. Ethanol was added, and the mixture was evaporated. The residue was treated with water and the solid filtered. The solid was washed with water, ethanol, and ether and dried to give 6.49 g of 6-[4-[2-oxo-1-pyrrolidinyl)acetylamino]-phenyl]-1,2-dihydro-2-oxonicotinic acid; mp <320°.

reactant | 2-oxo-1-pyrrolidineacetic acid | 30 mM, 4.29 g | O=C1N(CCC1)CC(=O)O | C6H9NO3
reactant | thionyl chloride | 30 mM, 2.20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 20 mM, 4.60 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | chlorotrimethylsilane | 60 mM, 7.6 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | triethylamine | 60 mM, 8.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 30 mM, 2.32 ml | CN(C=O)C | C3H7NO
product | 1,2-dihydro-2-oxonicotinic acid | O=C1C(C(=O)O)=CC=CN1 | C6H5NO3
